US09102625B2
Step III, N-(5-amino-2-fluorophenyl)pyrrolidine-1-carboxamide
A mixture of 1-fluoro-2-isocyanato-4-nitrobenzene (1.125 g, 6.18 mmol) and pyrrolidine (485 mg, 6.8 mmol) in DCM (20 mL) was stirred at rt for 14 hrs. After concentrated, the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous citric acid solution and dried over MgSO4, followed by hydrogenation with Pd/C (wet, 10%, 0.15 g) under a hydrogen balloon overnight. After filtration and concentration, the reasonable pure N-(5-amino-2-fluorophenyl)pyrrolidine-1-carboxamide (28.5, 1.44 g) was used for the next reactions. MS+: 224.2, UV: λ=271.6 nm. 1H NMR: (DMSO) δ7.44 (s, 1H), δ6.78 (m, 1H), δ6.20 (m, 1H), δ3.32 (m, 4H), δ1.83 (m, 4H).

reactant | 1-fluoro-2-isocyanato-4-nitrobenzene | 6.18 mmol, 1.125 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N=C=O | C7H3FN2O3
reactant | pyrrolidine | 6.8 mmol, 485 mg | N1CCCC1 | C4H9N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(5-amino-2-fluorophenyl)pyrrolidine-1-carboxamide | NC=1C=CC(=C(C1)NC(=O)N1CCCC1)F | C11H14FN3O
